US06593333B1
4-[3-(3-Methoxybenzamido)anilino]-6,7-dimethoxyquinazoline hydrochloride
3-Methoxybenzoyl chloride (0.169 ml) was added to a suspension of 4-(3-aminoanilino)-6,7-dimethoxyquinazoline (300 mg) in dry methylene chloride (10 ml). The reaction was stirred at ambient temperature for 18 hours. The precipitated solid was isolated, washed with methylene chloride and diethyl ether and then dried under vacuum to yield the title compound (398 mg, 85%); NMR: 3.84 (s, 3H), 3.98 (s, 3H), 4.02 (s, 3H), 7.15 (m, 1H), 7.35 (s, 1H), 7.4-7.56 (m, 5H), 7.66 (m, 1H), 8.21 (s, 1H), 8.31 (s, 1H), 8.8 (s, 1H), 10.41 (s, 1H), 11.38 (s, 1H); m/s: M+H+ 431.

reactant | 3-Methoxybenzoyl chloride | 0.169 ml | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 4-(3-aminoanilino)-6,7-dimethoxyquinazoline | 300 mg | NC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1 | C16H16N4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3-Methoxybenzamido)anilino]-6,7-dimethoxyquinazoline hydrochloride | 398 mg, 85% | Cl.COC=1C=C(C(=O)NC=2C=C(NC3=NC=NC4=CC(=C(C=C34)OC)OC)C=CC2)C=CC1 | InChI=1S/C24H22N4O4.ClH/c1-30-18-9-4-6-15(10-18)24(29)28-17-8-5-7-16(11-17)27-23-19-12-21(31-2)22(32-3)13-20(19)25-14-26-23;/h4-14H,1-3H3,(H,28,29)(H,25,26,27);1H
